data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,7112,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CC1=CC=CC=C1.CC1=CCC(C2=C(OCC3=CC=CC=C3)C=CC(Cl)=C2)([O-:1])[NH+]1C1=CC(S(N)(=O)=O)=CC=C1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2358,"CCC[OH+:1][Li:2]|((2, 1), 1)"
train,pmechdb_split_0,0,290,"C=C[CH:1]=[CH2:2].O=S(=O)(O)[O:3][H:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,3955,"CCN(CC)CC.CCO.COC1=CC=C(C(=O)C(C2=[N+:1]([H:2])CCCN2)C2C(=O)C(C3=C(C)NC4=C3C=CC=C4)=C[C:3]([O-:4])=[CH:5]2)C=C1|(4, 3);((3, 5), 2);((2, 1), 1)"
train,pmechdb_split_0,0,324,"CC(C(=O)NCC1=CC=CC=C1)[NH2+:1][C:2](=O)[O-:3].C[C+](C)C.O=C([O-])C(F)(F)F.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1818,"C[Si](C)(C)C=[C:1]=[CH2:2].[Cl][Ti-]([Cl])([Cl])([Cl])[O+:3]=[CH:4]CC1=CC=CC=C1|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,9096,"C1CCC([P:1](C2CCCCC2)C2CCCCC2)CC1.ClC[N+]12CC[N+:2]([F:3])(CC1)CC2.F[B-](F)(F)F.O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7747,"CCCCC[CH:1]([OH2+:2])[O:3]C.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7503,"C1=CN=CC(C2=CC3CC(C2)C[NH+](C[O-:1])C3)=C1.O=C[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3889,"CC(C)CC1CC[C:1]([CH2:2][N+:3]#N)([OH:4])[CH2:5]1.O.[Cl-]|(4, 1);((1, 5), 2);((2, 3), 3)"
train,pmechdb_split_0,0,888,"CC[OH:1].C[Si:2](C)(C)Cl|(1, 2)"
train,pmechdb_split_0,0,4136,"CCC(C)C([NH3+])C(O)(OC)[OH:1].C[OH+:2][H:3].[Cl-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5649,"C=CCCC1(O)C2=C(C=CC=C2)[N:1]=C1C1=C(Br)C=CC=C1.O=C[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,564,"C1=CC=[N:1]C=C1.CC1(O)CC[CH:2]([H:3])[CH:4]1[O:5]P(=O)(Cl)Cl|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4875,"CCC(C1CCCCC1)[NH:1]CC.CCCC[C:2](C(CCC1CCCC1)C1=CC=CC=C1)=[O:3].CC[NH2+]C(CC)C1CCCCC1.[BH3-]C#N.[Na+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7593,"C=CC(C)=O.CC(C)[CH:1]=[O:2].CC1=C(CCO)S[C-:3]=[N+]1CC1=CC=CC=C1.CC[NH+](CC)CC.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2359,"CC(=O)CCCCCC[CH:1]=[OH+:2].CC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3464,"COC(=O)NC(C)[C:1]1([O-:2])[N+:3](C2CCCCC2)=[C:4](NC2CCCCC2)[O:5]1.NC1=CC=CC=C1|(2, 1);((1, 5), 4);((4, 3), 3)"
train,pmechdb_split_0,0,2898,"C=CC(C)=O.COC(=O)C1CCCC(Br)C1=[O:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6092,"CC(C)O.COC1=CC2=C(C=C1)CCN1C(=O)C=C3C=C[C:1](=[O+:2][Al-]([O]C(C)C)([O]C(C)C)[O:3][C:4](C)(C)[H:5])CC321|(3, 4);((4, 5), 1);((1, 2), 2)"
train,pmechdb_split_0,0,1689,"CCNC(Cl)(CCC(=O)OCC)[O-:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8351,"CC(C)[C:1]1([H:2])C=CC=C[C+:3]1O.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,9058,"CCC(C1CCCCC1)[O:1][H:2].[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,3649,"CO[C:1](N)=[O:2].C[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2352,"CN1C2=CC=C(C=[O:1])C=C2C2=C1C=CC=C2.C[OH+:2][H:3].OO|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3238,"BrBr.COC1=CC([C:1]([CH:2](Br)[H:3])=[O:4])=CC(OC)=C1C(=O)C1=C(OC)C=CC=C1C#N.[Br-].[Na+].[OH-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,8000,"C=CC[Si](C)(C)C.CC(C)[O:1][Si](C)(C)C.C[Si](C)(C)[O+:2]=[CH:3]CCC1=CC=CC=C1.O=S(=O)([O-])C(F)(F)F|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7278,"CC1(C)CC2=C(C=NN2C2=CC=C(F)C=C2)C(=O)C1(NC1=C(N)C=CC(C(=O)C2=CC=CC=C2)=C1)[OH:1].CCO.NC1=C([NH2+:2][H:3])C=C(C(=O)C2=CC=CC=C2)C=C1.[Cl-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7588,"C[Si](C)(C)C[C:1]#[CH:2].[Fe-][O+:3]=[CH2:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,3393,"CC(=O)OC1(C(C)=O)CCC2C3CC=C4CC([O+:1]([Al-]([O]C(C)C)([O]C(C)C)[O]C(C)C)[H:2])CCC4(C)C3CCC21C.CC(C)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3736,"COC1=CC2=C(C=C1)C1C[C:1]([O:2]C(C)C)([O-:3])C3CCCC3=[N+]1CC2.O.O=C(O)C(F)(F)F|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,937,"C1=CC=C(C[NH:1]C(=CC[C:2](C2=CC=CC=C2)=[O:3])C2=CC=CC=C2)C=C1.CC(=O)O.O|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7845,"CC(O[Si-](C)(C)(C)Cl)=[NH:1].C[OH+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1954,"CCN(CC)[C:1](=[O:2])[CH:3]=[CH2:4].C[C:5](=[CH2:6])[O-:7]|(7, 5);((5, 6), 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,282,"C1CCOC1.CC(=O)[O-].CCOC(=O)C1=C(C2=C([N+](=O)[O-])C(N3CCCCC3)=CC=C2)C[C:1](C(=O)OCC)([OH2+:2])[O:3]1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3828,"C1CC[C:1]2=[N:2]CCC[N:3]2CC1.CC1C=C(O[Si](C)(C)C)[CH:4]([H:5])[CH:6]([I:7])CC1|(3, 1);((1, 2), 5);((5, 4), 6);((6, 7), 7)"
train,pmechdb_split_0,0,3591,"COCC1CCCN1[NH2+:1][H:2].COCC1CCCN1[NH2+]C1([O-:3])C=C(C)CCC1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1295,"CC1(C)CC2=C(C=NN2C2=CC=C(F)C=C2)C(=O)C1=[N+:1](C1=C(N)C=CC(C(=O)C2=CC=CC=C2)=C1)[H:2].CCO.NC1=C([NH2:3])C=C(C(=O)C2=CC=CC=C2)C=C1.O.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6579,"C1=CC=C(CC=CC[O-:1])C=C1.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8075,"CC(C=CC(O)C1C(=O)OC2C(O)COC21O)=[O:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
